US05374641
4-[3-Hydroxy-1-(3-pyridyl)propyl]benzaldehyde dimethyl acetal (0.51 g) was dissolved in 10 ml of methanol, followed by addition of 5 ml of 6N hydrogen chloride, and stirred for 20 hours. The solvent was distilled off under reduced pressure, followed by neutralization with aqueous 2N sodium hydroxide solution, which was then extracted with methylene chloride. The organic phase was washed in saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure, to obtain 0.43 g of 4-[3-hydroxy-1-(3-pyridyl)propyl]benzaldehyde.

reactant | 4-[3-Hydroxy-1-(3-pyridyl)propyl]benzaldehyde dimethyl acetal | 0.51 g | COC(C1=CC=C(C=C1)C(CCO)C=1C=NC=CC1)OC | C17H21NO3
reactant | hydrogen chloride | 6N, 5 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 4-[3-hydroxy-1-(3-pyridyl)propyl]benzaldehyde | 0.43 g | OCCC(C=1C=NC=CC1)C1=CC=C(C=O)C=C1 | C15H15NO2
